US08084448B2
H. 5-{2-Hydroxy-4-[2-((R)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-{2-benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one (0.090 g, 0.16 mmol) in EtOH (4 mL) is added a slurry of 10% Pd/C (0.1 g) in EtOH (6 mL). The reaction vessel is flushed twice with H2 and stirred at RT for 18 h under balloon pressure of H2. The mixture is filtered and purified by reverse phase chromatography using a gradient of 15 to 40% EtOH/water to afford the title compound as a white solid: LC retention time=1.0 min (Method A); (M+NH4)+=465.

reactant | 5-{2-benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.16 mmol, 0.090 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\[C@H]1N(CC2=CC=CC=C2C1)S(=O)(=O)C)N1CC(NS1(=O)=O)=O | C27H27N3O6S2
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | EtOH | 6 mL | CCO | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 5-{2-Hydroxy-4-[2-((R)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC[C@H]1N(CC2=CC=CC=C2C1)S(=O)(=O)C)N1CC(NS1(=O)=O)=O | C20H23N3O6S2
